US08937176B2
6.02.06.01 1-(4-fluoro-phenyl)-2-(4-fluoro-phenylamino)-ethanone
1.3 mL 4-fluoroaniline was added to 1 g 2-bromo-4-fluoroacetophenone in 20 mL THF. The reaction was stirred 3 h at RT and 4 h at 40° C. The mixture was filtered and the filtrate diluted with ethyl acetate and extracted with water. The organic layer was dried and evaporated. Diisopropylether was added to the residue. The precipitate was filtered and dried to yield 0.42 g desired product. Rt: 1.53 min (method B), (M+H)+: 248

reactant | 4-fluoroaniline | 1.3 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 2-bromo-4-fluoroacetophenone | 1 g | C1=CC(=CC=C1C(=O)CBr)F | C8H6BrFO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4-fluoro-phenyl)-2-(4-fluoro-phenylamino)-ethanone | 0.42 g | FC1=CC=C(C=C1)C(CNC1=CC=C(C=C1)F)=O | C14H11F2NO
